US08232296B2
Alternative Preparation of 5-iodo-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid
To acetic acid (263.7 L, 6.8 rel vol) was charged 6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid (38.6 kg, 1 mol eq, limiting reagent), iodine (17.4 kg, 0.53 mol eq) and concentrated sulfuric acid (3.7 L, 0.1 rel vol). The temperature was adjusted to 50° C.-55° C. and 90% nitric acid (4.1 kg, 0.6 mol eq) charged over 15 minutes. The reaction was stirred until deemed to be complete as judged by HPLC analysis. The reaction was cooled, stirred and the product collected by filtration. The solid was washed twice with water (2×77.0 L, 2×2 rel vol) and acetone (2×38.6 kg, 2×1 rel vol). The solid was dried under vacuum to constant weight to yield the title compound (47.0 kg, 111.0 mol, 85.7%).

reactant | 6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid | CC1=CC=C(C(N1C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | C14H10F3NO3
reactant | iodine | 0.53 mol, 17.4 kg | II | I2
reactant | sulfuric acid | 3.7 L | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.6 mol, 4.1 kg | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 263.7 L | C(C)(=O)O | C2H4O2
product | 5-iodo-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid | 111.0 mol, 47.0 kg, 85.7% | IC=1C=C(C(N(C1C)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | C14H9F3INO3
